US08039490B2
Trans (4-{2-[4-(4-Fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid methyl ester
Trans-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yl}-(4-fluoro-phenyl)-methanone (trifluoro acetic acid salt) (30 mg, 0.082 mmol) was dissolved in 1 ml dichlormethan. The reaction was cold down to 0° C. Dimethylpyrocarbonate (10.9 mg, 0.082 mmol) and triethylamine (8.3 mg, 0.082 mmol) were added. The reaction mixture was stirred over night at r.t. Aqueous solution of sodium bicarbonate was added until pH 8 and the water phase was extracted with dichloromethane. Chromatographie with dichloromethan/Methanol (1/0 to 8/2) yield the desired compound as a white solid (24 mg, 69.1%).

reactant | Trans-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yl}-(4-fluoro-phenyl)-methanone | 0.082 mmol, 30 mg | N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)C(=O)C1=CC=C(C=C1)F | C20H29FN2O
reactant | Dimethylpyrocarbonate | 0.082 mmol, 10.9 mg | COC(=O)OC(=O)OC | C4H6O5
reactant | triethylamine | 0.082 mmol, 8.3 mg | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichlormethan | 1 ml | ClCCl | CH2Cl2
product | Trans (4-{2-[4-(4-Fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid methyl ester | 24 mg, 69.1% | COC(N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C22H31FN2O3
